US08912208B2
B. (4-{4-[6-(2-Methyl-6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
(5-Bromo-pyridin-2-yl)-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-amine (290 mg, 0.87 mmol) and {4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (312 mg, 0.87 mmol) were dissolved in anhydrous DME (3 mL) in a pressure vessel. PdCl2dppf (21 mg, 0.026 mmol) was added, followed by aqueous sodium carbonate (2M, 0.870 mL, 1.74 mmol). The mixture was sparged with nitrogen for 10 minutes, then the vessel was sealed and heated at 80° C. for 18 hours. The mixture was partitioned between EtOAc and water, washed with brine, dried with magnesium sulfate, filtered, and concentrated via rotary evaporation. The crude material was purified via column chromatography on silica gel, eluting with a gradient of EtOAc/hexanes (7-50%) to obtain the target compound as a solid: 1H NMR (400 MHz, DMSO-d6) ppm 1.08-1.21 (m, 2 H) 1.50 (td, J=12.44, 10.23 Hz, 2 H) 1.81 (m, 4 H) 2.25 (d, J=6.57 Hz, 2 H) 2.59 (s, 3 H) 3.60 (s, 3 H) 7.22 (d, J=8.59 Hz, 1 H) 7.31 (d, J=8.34 Hz, 2 H) 7.57 (d, J=8.34 Hz, 2 H) 7.66 (d, J=8.59 Hz, 1 H) 7.97 (dd, J=8.59, 2.53 Hz, 1 H) 8.48 (d, J=2.53 Hz, 1 H) 8.64 (s, 1 H) 8.66 (d, J=8.34 Hz, 1 H); MS (M+H)+ 484.3.

reactant | (5-Bromo-pyridin-2-yl)-(2-methyl-6-trifluoromethyl-pyridin-3-yl)-amine | 0.87 mmol, 290 mg | BrC=1C=CC(=NC1)NC=1C(=NC(=CC1)C(F)(F)F)C | C12H9BrF3N3
reactant | {4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.87 mmol, 312 mg | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | sodium carbonate | 1.74 mmol, 2M, 0.870 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
product | (4-{4-[6-(2-Methyl-6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C(=NC(=CC1)C(F)(F)F)C)=O | C27H28F3N3O2
